US04612376
To a suspension of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (11.3 g) in water (20 ml) was added conc. hydrochloric acid (3.1 ml) and the mixture was evaporated under reduced pressure. To the residue was added ethanol (20 ml) and evaporated under reduced pressure again. The residue was crystallized from a mixture of diisopropyl ether and methanol (1:1) to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone hydrochloride (9.9 g).

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 11.3 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1CC)=O)C)=NC1=C(C=C(C=C1C)C)C | C24H29N3O3
reactant | hydrochloric acid | 3.1 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone hydrochloride | 9.9 g | Cl.COC=1C=C(C=CC1OC)C1=CC(N(C(N1CC)=O)C)=NC1=C(C=C(C=C1C)C)C | InChI=1S/C24H29N3O3.ClH/c1-8-27-19(18-9-10-20(29-6)21(13-18)30-7)14-22(26(5)24(27)28)25-23-16(3)11-15(2)12-17(23)4;/h9-14H,8H2,1-7H3;1H
